US04239771
L (-)-Lysine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate
33.1 g 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetic acid and 150 ml ethanol were added at about 40° C. to a solution of 14.6 g of L (-)-lysine in 200 ml anhydrous ethanol. Using the method of Example 1, there was precipitated a salt with melting point 226° C. Again the infra-red spectrum showed than addition salt was formed. A solution of 2.5 g product salt in 100 ml water had a pH of 6.2.

reactant | 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetic acid | 33.1 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C=1SC=CC1 | C13H8Cl2O4S
reactant | (-)-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (-)-Lysine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C=1SC=CC1.N[C@@H](CCCCN)C(=O)O | InChI=1S/C13H8Cl2O4S.C6H14N2O2/c14-11-7(13(18)9-2-1-5-20-9)3-4-8(12(11)15)19-6-10(16)17;7-4-2-1-3-5(8)6(9)10/h1-5H,6H2,(H,16,17);5H,1-4,7-8H2,(H,9,10)/t;5-/m.0/s1
